US05051422
N-(3,5-dimethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine
In a manner similar to Preparation 29, react 3,5-dimethoxybenzenamine with N-(2-chloroethyl)benzenemethanamine to obtain the title compound.

reactant | 3,5-dimethoxybenzenamine | COC=1C=C(C=C(C1)OC)N | C8H11NO2
reactant | N-(2-chloroethyl)benzenemethanamine | ClCCNCC1=CC=CC=C1 | C9H12ClN
product | N-(3,5-dimethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | COC=1C=C(C=C(C1)OC)NCCNCC1=CC=CC=C1 | C17H22N2O2
